US08975400B2
7-((4-(3,4-dichlorophenoxy)-3-fluorobenzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using (4-(3,4-dichlorophenoxy)-3-fluorophenyl)methanol (0.101 g, 0.350 mmol) in tetrahydrofuran (THF) (8 mL), sodium hydride (0.021 g, 0.525 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (0.065 g, 0.350 mmol) in DMF (1 mL).

reactant | (4-(3,4-dichlorophenoxy)-3-fluorophenyl)methanol | 0.350 mmol, 0.101 g | ClC=1C=C(OC2=C(C=C(C=C2)CO)F)C=CC1Cl | C13H9Cl2FO2
reactant | sodium hydride | 0.525 mmol, 0.021 g | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.350 mmol, 0.065 g | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-((4-(3,4-dichlorophenoxy)-3-fluorobenzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C)C=C2)F)C=CC1Cl | C20H16Cl2FN3O3
